US09303023B2
N-(1-(2-Hydroxyethyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide
To a solution of 5-(m-tolyl)oxazole-4-carboxylic acid (5.50 g, 27.07 mmol) in DCM (80 mL), TBTU (13.04 g, 40.60 mmol) and DIPEA (13.90 mL, 81.20 mmol) was added. After stirring for 40 min at rt, 2-(4-amino-1H-pyrazol-1-yl)ethanol (3.47 g, 27.07 mmol) dissolved in DCM (10 mL) and DMF (4 mL) was added to the reaction mixture and stirred at rt for 1 h, then the reaction mixture was diluted with DCM and water, the org. layer was separated and the aq. layer extracted with DCM (1×). The combined org. layers were washed with brine, dried (MgSO4), filtered and the solvent was removed under reduced pressure. Purification by FC (DCM/MeOH, 95:5 to DCM/MeOH 9:1) yielded the tiltle compound as a white solid. LC-MS conditions A: tR=0.71 min, [M+H]+=313.44.

reactant | 5-(m-tolyl)oxazole-4-carboxylic acid | 27.07 mmol, 5.50 g | C1(=CC(=CC=C1)C1=C(N=CO1)C(=O)O)C | C11H9NO3
reactant | TBTU | 40.60 mmol, 13.04 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 81.20 mmol, 13.90 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-(4-amino-1H-pyrazol-1-yl)ethanol | 27.07 mmol, 3.47 g | NC=1C=NN(C1)CCO | C5H9N3O
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | N-(1-(2-Hydroxyethyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide | OCCN1N=CC(=C1)NC(=O)C=1N=COC1C=1C=C(C=CC1)C | C16H16N4O3
